* OA-SAR8 analog-core power at 10 MS/s: real bootstrap x2, real switch cells x18,
* real StrongARM comparator, real cmim CDACs. SAR code sequence supplied by PWL
* (mirrors the logic macro output for an input near mid-scale with a slow ramp).
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.param vdd=1.5
.param T=100n

.include /foss/designs/sar-adc/sw10m/bootstrap.cir

* switch bit cell (driver inverter + boosted-gate sampling nmos), one per bit
.subckt cell10 bot vin ctl trkb gb VDD VSS
XMND bot ctl VSS VSS sg13_lv_nmos w=2.0u l=0.13u
XMPD bot ctl VDD VDD sg13_lv_pmos w=4.0u l=0.13u
XMNT bot gb  vin VSS sg13_lv_nmos w=2.0u l=0.13u
XMPT bot trkb vin VDD sg13_lv_pmos w=4.0u l=0.13u
.ends

* StrongARM comparator
.subckt sacomp inp inn clk outp outn VDD VSS
XM1 p inp tail VSS sg13_lv_nmos w=2.0u l=0.15u ng=2
XM2 q inn tail VSS sg13_lv_nmos w=2.0u l=0.15u ng=2
XM3 outn outp p VSS sg13_lv_nmos w=4.0u l=0.13u ng=2
XM4 outp outn q VSS sg13_lv_nmos w=4.0u l=0.13u ng=2
XMT tail clk VSS VSS sg13_lv_nmos w=3.0u l=0.3u ng=2
XM5 outn outp VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
XM6 outp outn VDD VDD sg13_lv_pmos w=6.0u l=0.13u ng=2
XMS1 p clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS2 q clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS3 outn clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
XMS4 outp clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u
.ends

* ---- supplies: separate meters for analog blocks
VDDA vdda 0 {vdd}
Vmb vddb vdda 0
Vmc vddc vdda 0
Vms vdds vdda 0
Vmt vddt vdda 0
VSS  vss  0 0
VCM  vcm  0 0.75
VINP vinp 0 dc 0.75 sin(0.75 0.6 1.0meg 0 0)
VINN vinn 0 dc 0.75 sin(0.75 -0.6 1.0meg 0 0)

* clocks: track window 5..35 ns of each 100 ns; comparator clk 8 x 8 ns pulses in the conversion window
Vtrk  trk  0 pulse(0 {vdd} 5n 0.2n 0.2n 30n {T})
Vtrkb trkb 0 pulse({vdd} 0 5n 0.2n 0.2n 30n {T})
Vclk  clk  0 pulse(0 {vdd} 42n 0.1n 0.1n 3n 7n)

* bootstraps (P and N), gates gbp/gbn drive the two switch rows
Xbp vinp vinpr trkb gbp vddb vss bstrap
Xbn vinn vinnr trkb gbn vddb vss bstrap

* CDAC P: 9 cells (b7..b0 + term) driving cmim units 2.14 um
XcP7 bp7 vinpr c7 trkb gbp vdds vssgp cell10
XcP6 bp6 vinpr c6 trkb gbp vdds vssgp cell10
XcP5 bp5 vinpr c5 trkb gbp vdds vssgp cell10
XcP4 bp4 vinpr c4 trkb gbp vdds vssgp cell10
XcP3 bp3 vinpr c3 trkb gbp vdds vssgp cell10
XcP2 bp2 vinpr c2 trkb gbp vdds vssgp cell10
XcP1 bp1 vinpr c1 trkb gbp vdds vssgp cell10
XcP0 bp0 vinpr c0 trkb gbp vdds vssgp cell10
XcPt bpt vinpr vdda trkb gbp vdds vssgp cell10
XC7 topp bp7 cap_cmim w=2.14u l=2.14u m=128
XC6 topp bp6 cap_cmim w=2.14u l=2.14u m=64
XC5 topp bp5 cap_cmim w=2.14u l=2.14u m=32
XC4 topp bp4 cap_cmim w=2.14u l=2.14u m=16
XC3 topp bp3 cap_cmim w=2.14u l=2.14u m=8
XC2 topp bp2 cap_cmim w=2.14u l=2.14u m=4
XC1 topp bp1 cap_cmim w=2.14u l=2.14u m=2
XC0 topp bp0 cap_cmim w=2.14u l=2.14u m=1
XCt topp bpt cap_cmim w=2.14u l=2.14u m=1
* CDAC N: complementary code
XcN7 bn7 vinnr c7n trkb gbn vdds vssgn cell10
XcN6 bn6 vinnr c6n trkb gbn vdds vssgn cell10
XcN5 bn5 vinnr c5n trkb gbn vdds vssgn cell10
XcN4 bn4 vinnr c4n trkb gbn vdds vssgn cell10
XcN3 bn3 vinnr c3n trkb gbn vdds vssgn cell10
XcN2 bn2 vinnr c2n trkb gbn vdds vssgn cell10
XcN1 bn1 vinnr c1n trkb gbn vdds vssgn cell10
XcN0 bn0 vinnr c0n trkb gbn vdds vssgn cell10
XcNt bnt vinnr vdda trkb gbn vdds vssgn cell10
XD7 topn bn7 cap_cmim w=2.14u l=2.14u m=128
XD6 topn bn6 cap_cmim w=2.14u l=2.14u m=64
XD5 topn bn5 cap_cmim w=2.14u l=2.14u m=32
XD4 topn bn4 cap_cmim w=2.14u l=2.14u m=16
XD3 topn bn3 cap_cmim w=2.14u l=2.14u m=8
XD2 topn bn2 cap_cmim w=2.14u l=2.14u m=4
XD1 topn bn1 cap_cmim w=2.14u l=2.14u m=2
XD0 topn bn0 cap_cmim w=2.14u l=2.14u m=1
XDt topn bnt cap_cmim w=2.14u l=2.14u m=1
* top-plate reset TGs to VCM during track
XTGp topp vcm trk trkb vddt vss tgsw
XTGn topn vcm trk trkb vddt vss tgsw
.subckt tgsw a b trk trkb VDD VSS
XMN a trk b VSS sg13_lv_nmos w=2.0u l=0.13u
XMP a trkb b VDD sg13_lv_pmos w=4.0u l=0.13u
.ends
* row VSS footers (power-gated drivers): on during conversion (trkb=1), off during track
XFp vssgp trkb vss vss sg13_lv_nmos w=16.0u l=0.13u
XFn vssgn trkb vss vss sg13_lv_nmos w=16.0u l=0.13u
* comparator
Xcmp topp topn clk outp outn vddc vss sacomp
Cl1 outp 0 5f
Cl2 outn 0 5f

* ---- SAR code (representative binary search, MSB-first, 8 ns per bit after 40 ns):
* trial sequence for a mid-scale-ish input: 1000 0000 -> keep/discard pattern 1 0 1 1 0 1 0 1
* ctl_k = 1 during track (bottom = VSS ... note driver inverts: ctl=1 -> bot=VSS)
.param t0=40n
Vc7 c7 0 pwl(0 {vdd} {t0} {vdd} {t0+0.1n} 0 {T} 0 {T+5n} 0 {T+5.1n} {vdd} {T+t0} {vdd} {T+t0+0.1n} 0)
Vc6 c6 0 pwl(0 {vdd} {t0+8n} {vdd} {t0+8.1n} 0 {t0+16n} 0 {t0+16.1n} {vdd} {T+5n} {vdd} {T+t0+8n} {vdd} {T+t0+8.1n} 0 {T+t0+16n} 0 {T+t0+16.1n} {vdd})
Vc5 c5 0 pwl(0 {vdd} {t0+16n} {vdd} {t0+16.1n} 0 {T+5n} 0 {T+5.1n} {vdd} {T+t0+16n} {vdd} {T+t0+16.1n} 0)
Vc4 c4 0 pwl(0 {vdd} {t0+24n} {vdd} {t0+24.1n} 0 {T+5n} 0 {T+5.1n} {vdd} {T+t0+24n} {vdd} {T+t0+24.1n} 0)
Vc3 c3 0 pwl(0 {vdd} {t0+32n} {vdd} {t0+32.1n} 0 {t0+40n} 0 {t0+40.1n} {vdd} {T+t0+32n} {vdd} {T+t0+32.1n} 0 {T+t0+40n} 0 {T+t0+40.1n} {vdd})
Vc2 c2 0 pwl(0 {vdd} {t0+40n} {vdd} {t0+40.1n} 0 {T+5n} 0 {T+5.1n} {vdd} {T+t0+40n} {vdd} {T+t0+40.1n} 0)
Vc1 c1 0 pwl(0 {vdd} {t0+48n} {vdd} {t0+48.1n} 0 {t0+56n} 0 {t0+56.1n} {vdd} {T+t0+48n} {vdd} {T+t0+48.1n} 0 {T+t0+56n} 0 {T+t0+56.1n} {vdd})
Vc0 c0 0 pwl(0 {vdd} {t0+56n} {vdd} {t0+56.1n} 0 {T+5n} 0 {T+5.1n} {vdd} {T+t0+56n} {vdd} {T+t0+56.1n} 0)
* complementary N-side codes
Bc7 c7n 0 v='min(v(vdda), v(vdda)-v(c7)+v(trk))'
Bc6 c6n 0 v='min(v(vdda), v(vdda)-v(c6)+v(trk))'
Bc5 c5n 0 v='min(v(vdda), v(vdda)-v(c5)+v(trk))'
Bc4 c4n 0 v='min(v(vdda), v(vdda)-v(c4)+v(trk))'
Bc3 c3n 0 v='min(v(vdda), v(vdda)-v(c3)+v(trk))'
Bc2 c2n 0 v='min(v(vdda), v(vdda)-v(c2)+v(trk))'
Bc1 c1n 0 v='min(v(vdda), v(vdda)-v(c1)+v(trk))'
Bc0 c0n 0 v='min(v(vdda), v(vdda)-v(c0)+v(trk))'

.control
set filetype=ascii
tran 0.05n 200n
* average supply current over the second full period (100..200 ns) -> steady state
meas tran iavg AVG i(VDDA) from=100n to=200n
meas tran ib AVG i(Vmb) from=100n to=200n
meas tran ic AVG i(Vmc) from=100n to=200n
meas tran is AVG i(Vms) from=100n to=200n
meas tran it AVG i(Vmt) from=100n to=200n
echo "TOTAL_uA = $&iavg"
echo "BSTRAP_uA = $&ib"
echo "CMP_uA = $&ic"
echo "SWCELLS_uA = $&is"
echo "TG_uA = $&it"
wrdata /foss/designs/sar-adc/power/isupply.csv i(VDDA)
quit
.endc
.end
